US07622471B2
1-Methylpiperazin-2-one hydrochloride
4N HCl-dioxane (20 mL) was added to 3-oxopiperazine-1-carboxylic acid tert-butyl ester (2.06 g) obtained from Referential Example 90, followed by stirring at room temperature for 1 hour. The reaction solvent was removed under reduced pressure, to thereby give the title compound as an oily product (1.44 g, 99%).

reactant | 3-oxopiperazine-1-carboxylic acid tert-butyl ester | 2.06 g | C(C)(C)(C)OC(=O)N1CC(NCC1)=O | C9H16N2O3
reactant | HCl dioxane | 4N, 20 mL | Cl.O1CCOCC1
product | 1-Methylpiperazin-2-one hydrochloride | Cl.CN1C(CNCC1)=O | InChI=1S/C5H10N2O.ClH/c1-7-3-2-6-4-5(7)8;/h6H,2-4H2,1H3;1H
